US06407122B1
(1 S, 2 R) 1-(2-Amino-benzothiazol-6-yl)-2-(4-benzyl-piperidin-1-yl)-propan-1-ol
To a stirred solution of 4 g of 1-p-aminophenyl-2-(4-benzyl-piperidin-1-yl)-propan-1-ol and 4.6 g of KSCN in 35 ml of glacial acetic acid was added dropwise 3.8 g of Br2 in 10 ml of glacial acetic acid. After 5 hours, the yellow suspension was filtered and the solution was poured into 100 ml of a concentrated hydroxide ammonium solution. After extraction with ethylacetate, the organic phase was washed with brine and dried. The solvent was removed and the residue was filtered on a small of silica gel eluting with acetone/cyclohexane ¼, affording 2.2 g of the title compound, m.p. 197-200° C., [α]20D=−15.6±0.2.

reactant | 1-p-aminophenyl-2-(4-benzyl-piperidin-1-yl)-propan-1-ol | 4 g | NC1=CC=C(C=C1)C(C(C)N1CCC(CC1)CC1=CC=CC=C1)O | C21H28N2O
reactant | KSCN | 4.6 g | C(#N)[S-].[K+]
reactant | Br2 | 3.8 g | BrBr | Br2
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-(2-Amino-benzothiazol-6-yl)-2-(4-benzyl-piperidin-1-yl)-propan-1-ol | 2.2 g | NC=1SC2=C(N1)C=CC(=C2)C(C(C)N2CCC(CC2)CC2=CC=CC=C2)O | C22H27N3OS
